US05807857
4. Ethyl 3-[5-(1,2,4-triazol-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate
A solution of ethyl 3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-4-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate (0.92 g) and trifluoroacetic acid (5 mL) in dry DCM (20 mL) was stirred at ambient temperature under nitrogen for 16 hours. The solvent was evaporated in vacuo and the residue azeotroped with toluene. The residue was chromatographed on silica eluting with 5 to 20% MeOH in DCM to give a cream solid. This was triturated with MeOH and the solid was collected by filtration to afford the title compound (0.4 g, 62%) as a a cream solid. mp 235° C. (dec.). 1H NMR (360 MHz, d6 -DMSO) δ 1.29 (3H, t, J=7.1Hz), 4.21 (2H, q, J=7.1Hz), 6.68 (1H, d, J=16.2Hz), 7.91 (1H, d, J=16.1Hz), 8.33 (1H, s), 8.36 (1H, s), 8.74 (1H, s), 9.35 (2H, s) and 12.44 (1H, br s).

reactant | ethyl 3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-4-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate | 0.92 g | C(C)(C)(C)OC(=O)N1C=C(C=2C1=CN=C(C2)N2C=NN=C2)C=CC(=O)OCC | C19H21N5O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[5-(1,2,4-triazol-4-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate | 0.4 g, 62% | N=1N=CN(C1)C=1C=C2C(=CN1)NC=C2C=CC(=O)OCC | C14H13N5O2
